US08729102B2
C) tert-butyl [(1S)-2-({6-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]pyridin-3-yl}oxy)-1-methylethyl]carbamate
A mixture of 6-(cyclopropylmethoxy)-1,3-benzoxazole (500 mg), tert-butyl {(1S)-2-[(6-bromopyridin-3-yl)oxy]-1-methylethyl}carbamate (1.31 g), palladium(II) acetate (29 mg), butyldi(1-adamantyl)phosphine (93 mg), tripotassium phosphate (1.12 g) and N-methylpyrrolidone (12 mL) was stirred under an argon atmosphere at 125° C. for 15 hr. The reaction mixture was allowed to cool to room temperature, and filtered through celite. The filtrate was diluted with ethyl acetate and water, and the organic layer was separated. The combined organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (400 mg).

reactant | 6-(cyclopropylmethoxy)-1,3-benzoxazole | 500 mg | C1(CC1)COC1=CC2=C(N=CO2)C=C1 | C11H11NO2
reactant | tert-butyl {(1S)-2-[(6-bromopyridin-3-yl)oxy]-1-methylethyl}carbamate | 1.31 g | BrC1=CC=C(C=N1)OC[C@H](C)NC(OC(C)(C)C)=O | C13H19BrN2O3
reactant | butyldi(1-adamantyl)phosphine | 93 mg | C(CCC)P(C12CC3CC(CC(C1)C3)C2)C23CC1CC(CC(C2)C1)C3 | C24H39P
reactant | tripotassium phosphate | 1.12 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | palladium(II) acetate | 29 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | N-methylpyrrolidone | 12 mL | CN1C(CCC1)=O | C5H9NO
product | tert-butyl [(1S)-2-({6-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]pyridin-3-yl}oxy)-1-methylethyl]carbamate | 400 mg | C1(CC1)COC1=CC2=C(N=C(O2)C2=CC=C(C=N2)OC[C@H](C)NC(OC(C)(C)C)=O)C=C1 | C24H29N3O5
